US07932250B2
tert-Butyl 5-nitro-1-indolinecarboxylate
To a solution of 500 mg (3.05 mmol) of 5-nitroindoline in 10 mL of anhydrous dichloromethane was added 798 mg (3.65 mmol) of di-tert-butyl dicarbonate under ice cooling, and the mixture was stirred for 1.5 hours. Then, to this mixture was added catalytic amount of 4-dimethylamiopyridine and the mixture was stirred for 1 hour at room temperature. Water was added to the reaction mixture and the mixture was extracted with dichloromethane. The organic layer was washed with saturated saline solution and dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluent:hexane/ethyl acetate=6/1) to give 800 mg (99%) of the title compound.

reactant | 5-nitroindoline | 3.05 mmol, 500 mg | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | di-tert-butyl dicarbonate | 3.65 mmol, 798 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-Butyl 5-nitro-1-indolinecarboxylate | 800 mg, 99% | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16N2O4
